US08563718B2
7-(1-ethyl-propyl)-3-(4-chloro-2-morpholin-4-yl-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine
Charge 7-(1-ethyl-propyl)-3-(2,4-dichloro-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine (0.37 g, 1.00 mmoles), K2CO3 (0.28 g, 2.00 mmoles) and anhydrous morpholine (3 mL) to a round bottom flask equipped with a magnetic stir bar and N2 inlet. Stir the yellow mixture at 100° C. for about 4 hr., during which time the reaction becomes homogeneous. Cool the reaction mixture to room temperature, add H2O (10 mL) and stir the heterogeneous reaction mixture overnight at room temperature. Collected the yellow solid by filtration, wash with H2O and allowed to air dry overnight to give the crude title compound (391 mg). Recrystallize from isopropyl alcohol (3 mL) to yield the title compound as a light yellow crystalline solid (380 mg, 90.6% yield, >99% by LC). MS (ES)=420 (M+1). 1H NMR (CDCl3)=6.45 (1H, s); 3.81 (m, 4H); 3.62 (1H, m); 3.50 (m, 4H); 2.6 (3H, s); 2.45 (3H, s); 1.85 (4H, m); 0.9 (6H, t).

reactant | 7-(1-ethyl-propyl)-3-(2,4-dichloro-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 1.00 mmoles, 0.37 g | C(C)C(CC)C1=CC(=NC=2N1N=C(C2C2=C(N=C(S2)Cl)Cl)C)C | C16H18Cl2N4S
reactant | K2CO3 | 2.00 mmoles, 0.28 g | C(=O)([O-])[O-].[K+].[K+]
reactant | morpholine | 3 mL | N1CCOCC1 | C4H9NO
solvent | H2O | 10 mL | O | H2O
product | 7-(1-ethyl-propyl)-3-(4-chloro-2-morpholin-4-yl-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 380 mg, 90.6% yield | C(C)C(CC)C1=CC(=NC=2N1N=C(C2C2=C(N=C(S2)N2CCOCC2)Cl)C)C | C20H26ClN5OS
